US06610692B1
Step D: 5-Aminomethyl-6-azaindole Dihydrochloride
A suspension of 2-cyano-4-(2-dimethylaminoethenyl)-5-nitropyridine (3.8 g) and 10% palladium on carbon (3 g) in 6 M HCl (10 mL) and methanol (50 mL) was shaken on a Parr apparatus under hydrogen (55 psi). After 16 h the mixture was filtered through celite, washing with methanol, and was basified with ammonium hydroxide and evaporated in vacuo. The crude product was purified by flash column chromatography (80:19:1 chloroform/methanol/ammonium hydroxide) to give the title compound as the free base. The free base was dissolved in a minimum volume of methanol and 1 M HCl in ether (2 equivalents) was added and after dilution with ether the solids were collected by filtration to give the title compound as a tan solid:

reactant | 2-cyano-4-(2-dimethylaminoethenyl)-5-nitropyridine | 3.8 g | C(#N)C1=NC=C(C(=C1)C=CN(C)C)[N+](=O)[O-] | C10H10N4O2
reactant | HCl | 6 M, 10 mL | Cl | ClH
catalyst | palladium on carbon | 3 g | [Pd] | Pd
solvent | methanol | 50 mL | CO | CH4O
product | 5-Aminomethyl-6-azaindole Dihydrochloride | Cl.Cl.NCC=1C=C2C=CNC2=CN1 | InChI=1S/C8H9N3.2ClH/c9-4-7-3-6-1-2-10-8(6)5-11-7;;/h1-3,5,10H,4,9H2;2*1H
